US07977325B2
Production of 2-(3,5-Dimethoxyphenyl)-[1,3]dioxolane
4.2 ml of ethylene glycol, 4.1 ml of trimethyl orthoformate and 5 mg of p-toluenesulfonic acid are added to a solution of 5 g of 3,5 dimethoxy benzaldehyde in 100 ml of dichloromethane. It is allowed to stir for 20 more hours at 25° C. Then, it is washed with saturated sodium bicarbonate solution and saturated sodium chloride solution, dried on sodium sulfate, and concentrated by evaporation in a vacuum. The crude product is purified by column chromatography. 5.67 g of product is obtained.

reactant | ethylene glycol | 4.2 ml | C(CO)O | C2H6O2
reactant | trimethyl orthoformate | 4.1 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,5 dimethoxy benzaldehyde | 5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(3,5-Dimethoxyphenyl)-[1,3]dioxolane | 5.67 g | COC=1C=C(C=C(C1)OC)C1OCCO1 | C11H14O4
